US04102885
One ml. of N,N-dimethylaniline is added to 10 ml. of phosphorus oxychloride at 20°-25°. After a period of 5 min. 1-(3,4-dimethoxyphenyl)-3-phenoxycarbonylurea (0.785 g., 2.4 mmole) is added and the solution heated to reflux for a period of 4 hours. After the reflux period, excess phosphorus oxychloride is removed under reduced pressure providing a dark oily residue which is dissolved in chloroform. The chloroform solution is added cautiously to an ice/water mixture and after 10 min. the organic layer is separated and the aqueous phase extracted with additional chloroform. Combined chloroform extracts are sequentially washed with water, aqueous 1.0 N hydrochloric acid, water, aqueous 0.5 N sodium hydroxide and finally water. After drying the solution over sodium sulfate, the chloroform extract is concentrated under reduced pressure to provide 0.92 g. of a yellow-brown solid. Chromatographic purification of this material employing an aluminum oxide column eluted with toluene affords 0.504 g. of yellow solid. Trituration of this material with cold ethanol affords 0.368 g. (58% yield) of 2,4-dichloro-6,7-dimethoxyquinazoline, m.p. 175°-177°; mixture melting point (174°-177°; with sample: m.p. 158.5°-162°, prepared according to Curd, et al., J. Chem. Soc., 1765, (1948) and otherwise identical according to infrared, nuclear magnetic resonance and vaporphase chromatograph analysis.

reactant | N,N-dimethylaniline | CN(C1=CC=CC=C1)C | C8H11N
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 1-(3,4-dimethoxyphenyl)-3-phenoxycarbonylurea | 2.4 mmole, 0.785 g | COC=1C=C(C=CC1OC)NC(=O)NC(=O)OC1=CC=CC=C1 | C16H16N2O5
reactant | ethanol | C(C)O | C2H6O
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2,4-dichloro-6,7-dimethoxyquinazoline | 58% yield | ClC1=NC2=CC(=C(C=C2C(=N1)Cl)OC)OC | C10H8Cl2N2O2
